US04882334
A solution of 100 mg. of dimethyl N-[5-(2-{2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl}ethyl)thien-2-ylcarbonyl]-L-glutamate in 15 mL. of 1.0N aqueous sodium hydroxide is stirred at room temperature for 120 hours and the pH then adjusted to 7.0 through the careful addition of 5.0N hydrochloric acid. The solid which formed was collected by filtration and dried at 80° C. to yield 61.5 mg (76.8%) of N-[5-(2-{2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl}ethyl)thien-2-ylcarbonyl]-L-glutamic acid, m.p. 226°-240° C. (foaming and decomposition). NMR (DMSO-d6 300 MHz) delta: 9.80 (s, br, 1H), 8.45 (d, J=9 Hz, 1H), 7.62 (d, J=3 Hz, 1H), 6.87 (d, J=3 Hz, 1H), 6.30 (s, 1H), 6.04 (s, 2H), 4.28 (m, 1H), 3.12 (m, 1H), 2.84 (m, 3H), 2.36 (m, 1H), 2.02 (m, 1H), 1.83 (m, 2H), 1.57 (m, 3H).

reactant | dimethyl N-[5-(2-{2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl}ethyl)thien-2-ylcarbonyl]-L-glutamate | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)O | C26H35N5O7S
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | hydrochloric acid | 5.0N | Cl | ClH
product | N-[5-(2-{2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl}ethyl)thien-2-ylcarbonyl]-L-glutamic acid | 61.5 mg, 76.8% | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)N[C@@H](CCC(=O)O)C(=O)O)O | C19H23N5O6S
